US05859007
2-(3-Allyl-3-methoxy-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide
To a stirring solution of 1.50 g (7.10 mmol) of 2-allyl-2-methoxy-propandioyl dichloride in 50 mL of THF at 0° C. is added dropwise over 2 min a solution of 1.85 g (4.74 mmol) of N-isopropyl-N-(4-methoxy-phenyl)-2-(2-phenylamino-phenylamino) acetamide, prepared as in Intermediate 43, in 20 mL of THF. The resulting solution is stirred at RT for 15 min then refluxed for 18 h. After cooling to RT the solvent is removed in vacuo and the crude product purified by silica gel flash column chromatography using hexane/EtOAc 3/1 as eluent to afford 1.46 g of the title compound as a clear, colorless oil: 1H NMR (CDCl3, 300 MHz) δ7.40-6.88 (m, 12H), 6.78 (d, 1H), 5.92 (m, 1H), 5.10 (m, 2H), 4.46 (d, 1H), 3.80 (s, 3H), 3.64 (m, 1H), 3.02 (s, 3H), 1.88 (m, 1H), 1.75 (m, 1H), 1.13 (m, 6H); low resolution MS (FAB) m/e 528 (MH+).

reactant | 2-allyl-2-methoxy-propandioyl dichloride | 7.10 mmol, 1.50 g | C(C=C)C(C(=O)Cl)(C(=O)Cl)OC | C7H8Cl2O3
reactant | N-isopropyl-N-(4-methoxy-phenyl)-2-(2-phenylamino-phenylamino) acetamide | 4.74 mmol, 1.85 g | C(C)(C)N(C(CNC1=C(C=CC=C1)NC1=CC=CC=C1)=O)C1=CC=C(C=C1)OC | C24H27N3O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(3-Allyl-3-methoxy-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide | 1.46 g | C(C=C)C1(C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O)OC | C31H33N3O5
